US07238714B2
Step 1. Methyl 5-chloro-2-(2,4-difluorophenoxy)benzoate
The title compound was prepared according to the procedure described in step 1 of Example 67 from methyl 5-chloro-2-fluorobenzoate and 2,4-difluorophenol: 1H-NMR (CDCl3) δ 7.90 (1H, d, J=2.8 Hz), 7.39 (1H, dd, J=8.8, 2.8 Hz), 7.05–6.91 (2H, m), 6.89–6.80 (1H, m), 6.80 (1H, d, J=8.8 Hz), 3.85 (3H, s).

reactant | methyl 5-chloro-2-fluorobenzoate | ClC=1C=CC(=C(C(=O)OC)C1)F | C8H6ClFO2
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | Methyl 5-chloro-2-(2,4-difluorophenoxy)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)OC1=C(C=C(C=C1)F)F | C14H9ClF2O3
